US03956357
Using the procedure of Example 9 with 3,616 parts of ethyl cyanoacetate, 10 parts of hydroquinone, 4.3 parts of piperidine, 45 parts of a 3% palladium on charcoal catalyst and 6,500 parts of toluene, treated over 4 hours with 4,000 parts of a solution of 3,000 parts of formalin (36%), 225 parts of glacial acetic acid, 258 parts of piperidine and water to give a total of 4,500 parts, gave 1,488 parts of crude ethyl 2 cyanopropionate which on redistillation yielded 1198.5 parts of a purified product of boiling point 83°-85°C/12-13 mm. of mercury.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | formalin | C=O | CH2O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 2 cyanopropionate | C(#N)C(C(=O)OCC)C | C6H9NO2
